US04652584
A sample of 20 g (0.069 mole) of 2-iodo-5-trifluoromethylphenol was added in portions to a suspension of 0.07 mole of NaH (from 3.36 g of 50% NaH which had been washed free of oil with hexane) in 150 ml of dry DMF under N2. When gas evolution had ceased, a 27 ml (0.347 mole) sample of epichlorohydrin was added dropwise at 5° C. The mixture was heated at 60° C. for 3 hr and allowed to stand at 25° C. for 16 hr. A precipitate was removed by filtration. The filtrate was concentrated to dryness in vacuo. The residue was taken up in ether, washed with water and brine, dried (K2CO3) and the solvent evaporated in vacuo to give 20.4 g (86% yield) of [(2-iodo-5-trifluoromethylphenoxy)methyl]oxirane as an oil.

reactant | 2-iodo-5-trifluoromethylphenol | 0.069 mole, 20 g | IC1=C(C=C(C=C1)C(F)(F)F)O | C7H4F3IO
reactant | NaH | 0.07 mole, 3.36 g | [H-].[Na+]
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | [(2-iodo-5-trifluoromethylphenoxy)methyl]oxirane | 20.4 g, 86% yield | IC1=C(OCC2OC2)C=C(C=C1)C(F)(F)F | C10H8F3IO2
